US06927303B2
To a solution of 2-hydroxy-5-(2,3,5,6-tetrafluoro-4-trifluoromethylbenzylamino) benzoic acid (2.00 g, 5.12 mmole) and trifluoroactic anhydride (15 ml) was added c-H2SO4 (0.50 ml) at 10° C. under a nitrogen atmosphere. The reaction mixture was stirred for 20 min at room temperature and then quenched with an ice (10 g). After the solvent was removed in vacuo, the residue was dissolved in ethyl acetate (50 ml). The organic layer was washed with water (20 ml×2), 10% NaHCO3 (20 ml×3), 0.5 N HCl (20 ml×2), and water (20 ml). The organic layer was dried over anhydrous Na2SO4. After evaporation of the solvent, the residue was recrystallized from ethyl acetate/hexane (1:10) to give 1.40 g (47% yield) of 2-carboxy-4-[2,3,5,6-tetrafluoro-4-trifluoromethylbenzyl]-(2,2,2-trifluoroacetyl)amino]phenyl trifluoroacetate as an yellow solid.

reactant | 2-hydroxy-5-(2,3,5,6-tetrafluoro-4-trifluoromethylbenzylamino) benzoic acid | 5.12 mmole, 2.00 g | OC1=C(C(=O)O)C=C(C=C1)NCC1=C(C(=C(C(=C1F)F)C(F)(F)F)F)F | C15H8F7NO3
reactant | trifluoroactic anhydride | 15 ml | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
product | phenyl trifluoroacetate | FC(C(=O)OC1=CC=CC=C1)(F)F | C8H5F3O2
